US05306827
Preparation of N-(hydroxymethyl)acetamide acetate (ester)
Acetic anhydrive (25 g) and pyridine (10 drops) is added to N-(hydroxymethyl)acetamide (9 g, 0.1 mol). The reaction mixture is stirred overnight at room temperature, concentrated in vacuo and chased with xylene to give the title product as an oil (11.9 g, 0.9 mol) which is identified by 1HNMR spectral analysis.

reactant | Acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | N-(hydroxymethyl)acetamide | 0.1 mol, 9 g | OCNC(C)=O | C3H7NO2
catalyst | pyridine | 10 drops | N1=CC=CC=C1 | C5H5N
product | N-(hydroxymethyl)acetamide acetate | 0.9 mol, 11.9 g | C(C)(=O)O.OCNC(C)=O | InChI=1S/C3H7NO2.C2H4O2/c1-3(6)4-2-5;1-2(3)4/h5H,2H2,1H3,(H,4,6);1H3,(H,3,4)
